US05612483
1.91 g (10 mmol) of 3-nitrobenzotrifluoride, 1.88 g (20 mmol) of 2-aminopyridine and 1.2 g (30 mmol) of sodium hydroxide in the form of microbeads are heated at 50° C. for 6 h in 30 ml of abs. DMSO while passing through dry air. After cooling, the mixture is diluted with ethyl acetate and extracted several times by shaking with water. After drying and stripping off the organic solvent, 3.8 g of crude product are obtained which is purified by chromatography on silica gel using petroleum ether and ethyl acetate (volume ratio 1:1). 2.3 g (8.1 mmol, 81%) of 2-(4-nitro-2-trifluoromethylphenylamino)-pyridine of m.p. 83°-84° C. are thus obtained.

reactant | 3-nitrobenzotrifluoride | 10 mmol, 1.91 g | [N+](=O)([O-])C=1C=C(C=CC1)C(F)(F)F | C7H4F3NO2
reactant | 2-aminopyridine | 20 mmol, 1.88 g | NC1=NC=CC=C1 | C5H6N2
reactant | sodium hydroxide | 30 mmol, 1.2 g | [OH-].[Na+]
solvent | DMSO | CS(=O)C | C2H6OS
product | 2-(4-nitro-2-trifluoromethylphenylamino)-pyridine | 8.1 mmol, 2.3 g, 81% | [N+](=O)([O-])C1=CC(=C(C=C1)NC1=NC=CC=C1)C(F)(F)F | C12H8F3N3O2
